US05324747
A mixture of 0.43 g of N-[3,5-bis[(tetradecyloxy)carbonyl]phenyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester and 0.2 g of 10% palladium on carbon in 30 ml of ethyl acetate and 20 ml of THF was shaken under an initial hydrogen pressure of 51 psi for 2 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was recrystallized from methanol-water to give 0.28 g (82% yield, mp 84°-87°) of N-(carboxy-methyl)-N-[3,5-bis[(tetradecyloxy)carbonyl]phenyl]glycine.

reactant | N-[3,5-bis[(tetradecyloxy)carbonyl]phenyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester | 0.43 g | C1(=CC=CC=C1)COC(CN(CC(=O)OCC1=CC=CC=C1)C1=CC(=CC(=C1)C(=O)OCCCCCCCCCCCCCC)C(=O)OCCCCCCCCCCCCCC)=O | C54H79NO8
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(carboxy-methyl)-N-[3,5-bis[(tetradecyloxy)carbonyl]phenyl]glycine | 0.28 g, 82% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)C(=O)OCCCCCCCCCCCCCC)C(=O)OCCCCCCCCCCCCCC | C40H67NO8
